US05258529
10.00 Grams of the 2-chloro-4,6-dimethyl-1,5-heptadien-4-ol obtained above were dissolved in 94 g of N,N-dimethylformamide, and 9.65 g of potassium hydroxide in a flake form were added. The resultant mixture was stirred at room temperature for 4 hours and neutralized with a 20% acetic acid aqueous solution, and the resultant mixture was subjected to extraction with toluene. The toluene phase was washed with water and then dried over magnesium sulfate. The desiccant was filtered off, and then the toluene was distilled off under reduced pressure. The resultant oily substance was purified by silica gel column chromatography to give 6.32 g of methyl 2-methylallylpropargylcarbinol; nD25 =1.496, FI-MS m/e 138 (M+) (Propargyl compound/allene compound=100.0/0.0).

reactant | 2-chloro-4,6-dimethyl-1,5-heptadien-4-ol | ClC(=C)CC(C=C(C)C)(O)C | C9H15ClO
reactant | potassium hydroxide | 9.65 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 94 g | CN(C=O)C | C3H7NO
product | methyl 2-methylallylpropargylcarbinol | 6.32 g | CC(O)(CC#C)CC(=C)C | C9H14O
